US04226802
A mixture of 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutyramide (1 mmol) and 4 ml of methanol, saturated with HCl gas, is heated at 75° for about 40 hours. The mixture is cooled, poured into saturated aqueous sodium bicarbonate and extracted with ether. The combined ether extracts are dried over sodium sulfate and solvent removed in vacuo to yield methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate, which can be further purified by prep. thin layer chromatography.

reactant | 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutyramide | 1 mmol | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)N)C(C)C | C12H14ClF3N2O
reactant | HCl | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 4 ml | CO | CH4O
product | methyl 2-(2-chloro-4-trifluoromethylphenylamino)-3-methylbutanoate | ClC1=C(C=CC(=C1)C(F)(F)F)NC(C(=O)OC)C(C)C | C13H15ClF3NO2
